US07618985B2
(S)-3-(Oxo-1,2-dihydroisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester (1.25 g, 3.6 mmol) was mixed with dichloromethane (30 ml) and trifluoroacetic acid (10 ml) at ambient temperature for 15 minutes. Volatiles were removed under reduced pressure and excess trifluoroacetic acid was azeotroped with toluene. The residue was dissolved in methanol and purified using an SCX cartridge. Concentration gave (S)-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one (450 mg, 51%), El-MS: m/z=245.4 [M+H]+.

reactant | (S)-3-(Oxo-1,2-dihydroisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester | 3.6 mmol, 1.25 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC=1C=C2C=CNC(C2=CC1)=O | C19H24N2O4
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (S)-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one | 450 mg, 51% | N1C[C@H](CCC1)OC=1C=C2C=CNC(C2=CC1)=O | C14H16N2O2
